* C:\FOSSEE\eSim\library\SubcircuitLibrary\2bit_dac\2bit_dac.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/7/2022 2:00:09 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  /vrefh Net-_R1-Pad2_ resistor		
R2  Net-_R1-Pad2_ Net-_R2-Pad2_ resistor		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ resistor		
R4  Net-_R3-Pad2_ /vrefl resistor		
U1  /vrefh /vrefl /d0 /vdd /d1 /vout PORT		
X1  /d0 /vdd Net-_R1-Pad2_ Net-_R2-Pad2_ Net-_X1-Pad5_ switch		
X2  /d0 /vdd Net-_R3-Pad2_ /vrefl Net-_X2-Pad5_ switch		
X3  /d1 /vdd Net-_X1-Pad5_ Net-_X2-Pad5_ /vout switch		

.end
