* C:\FOSSEE\eSim\library\SubcircuitLibrary\Flash_adc\Flash_adc.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/7/2022 1:58:10 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ Net-_SC1-Pad2_ sky130_fd_pr__res_generic_pd		
SC2  Net-_SC2-Pad1_ Net-_SC1-Pad1_ Net-_SC1-Pad1_ sky130_fd_pr__res_generic_pd		
SC3  Net-_SC3-Pad1_ Net-_SC2-Pad1_ Net-_SC2-Pad1_ sky130_fd_pr__res_generic_pd		
SC4  GND Net-_SC3-Pad1_ Net-_SC3-Pad1_ sky130_fd_pr__res_generic_pd		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ adc_bridge_3		
U1  Net-_U1-Pad1_ Net-_SC1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ PORT		
v1  Net-_X1-Pad1_ GND DC		
X1  Net-_X1-Pad1_ Net-_X1-Pad1_ Net-_X1-Pad1_ Net-_SC1-Pad1_ Net-_U3-Pad1_ GND avsdcmp_3v3_sky130		
X2  Net-_X1-Pad1_ Net-_X1-Pad1_ Net-_U1-Pad1_ Net-_SC2-Pad1_ Net-_U3-Pad2_ GND avsdcmp_3v3_sky130		
X3  Net-_X1-Pad1_ Net-_X1-Pad1_ Net-_U1-Pad1_ Net-_SC3-Pad1_ Net-_U3-Pad3_ GND avsdcmp_3v3_sky130		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ jayanth_flash_dec		
U4  Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U1-Pad4_ Net-_U1-Pad3_ dac_bridge_2		

.end
