* SkyWater PDK

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vdd vdd gnd DC 1.8
V1 in gnd pulse(0 1.8 0p 10p 10p .8n 1.6n)
V2 clk gnd pulse(0 1.8 0p 0p 0p 1n 2n)
V3 clkn gnd pulse(0 1.8 0p 0p 0p 1n 2n 180)
*PULSE(VL VH TD TR TF PW PER PHASE)

* NGSPICE file created from d_latch.ext - technology: sky130A

.subckt inverter vss vdd a y
X0 y a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.504 pd=3.32 as=0.504 ps=3.32 w=1.26 l=0.15
**devattr s=5040,332 d=5040,332
X1 y a vss vss sky130_fd_pr__nfet_01v8 ad=0.168 pd=1.64 as=0.168 ps=1.64 w=0.42 l=0.15
**devattr s=1680,164 d=1680,164
C0 vdd y 0.146586f
C1 vdd a 0.119273f
C2 a y 0.031239f
C3 y vss 0.168883f
C4 a vss 0.333831f
C5 vdd vss 0.633435f
.ends

.subckt transmission_gate_new y s1 s2 w_n58_76# SUB a_n40_0# a_n40_94#
X0 y s2 a_n40_0# SUB sky130_fd_pr__nfet_01v8 ad=0.168 pd=1.64 as=0.168 ps=1.64 w=0.42 l=0.15
**devattr s=1680,164 d=1680,164
X1 y s1 a_n40_94# w_n58_76# sky130_fd_pr__pfet_01v8 ad=0.452 pd=3.06 as=0.452 ps=3.06 w=1.13 l=0.15
**devattr s=4520,306 d=4520,306
C0 w_n58_76# y 0.013985f
C1 s2 a_n40_0# 0.003901f
C2 y a_n40_0# 0.027898f
C3 a_n40_94# s2 4.31e-19
C4 y a_n40_94# 0.075292f
C5 s1 s2 0.016352f
C6 s1 y 0.015466f
C7 w_n58_76# a_n40_0# 0.00115f
C8 w_n58_76# a_n40_94# 0.005552f
C9 y s2 0.01119f
C10 a_n40_94# a_n40_0# 0.011957f
C11 w_n58_76# s1 0.034609f
C12 s1 a_n40_0# 1.17e-19
C13 w_n58_76# s2 0.001504f
C14 s1 a_n40_94# 0.010975f
C15 s2 SUB 0.160526f
C16 y SUB 0.175512f
C17 s1 SUB 0.134949f
C18 a_n40_0# SUB 0.032621f
C19 a_n40_94# SUB 0.049611f
C20 w_n58_76# SUB 0.234228f
.ends

.subckt d_latch D Y clk not_clk1 clk1 not_clk Vdd Vss
Xinverter_0 Vss Vdd D inverter_0/y inverter
Xinverter_1 Vss Vdd Y inverter_1/y inverter
Xinverter_2 Vss Vdd inverter_2/a Y inverter
Xtransmission_gate_new_0 inverter_2/a not_clk clk transmission_gate_new_0/w_n58_76#
+ Vss inverter_1/y inverter_1/y transmission_gate_new
Xtransmission_gate_new_1 inverter_0/y clk1 not_clk1 transmission_gate_new_1/w_n58_76#
+ Vss inverter_2/a inverter_2/a transmission_gate_new
C0 clk inverter_1/y 0.007754f
C1 Y D 0.006629f
C2 not_clk not_clk1 0.001632f
C3 Y Vdd 0.082603f
C4 not_clk clk 1.09e-20
C5 not_clk1 D 0.009299f
C6 Y clk1 0.013357f
C7 clk D 6.62e-19
C8 inverter_1/y inverter_0/y 0.290534f
C9 not_clk1 Vdd 0.032613f
C10 inverter_2/a inverter_1/y 0.048642f
C11 clk Vdd 1.24e-19
C12 clk1 not_clk1 0.255754f
C13 not_clk inverter_0/y 0.00635f
C14 transmission_gate_new_0/w_n58_76# Y 0.002509f
C15 clk clk1 1.85e-19
C16 inverter_0/y D 0.001441f
C17 not_clk inverter_2/a 0.00131f
C18 inverter_2/a D 7.01e-21
C19 transmission_gate_new_0/w_n58_76# not_clk1 0.002567f
C20 inverter_0/y Vdd 0.850915f
C21 clk1 inverter_0/y 0.205627f
C22 inverter_2/a Vdd 0.145792f
C23 transmission_gate_new_1/w_n58_76# inverter_1/y 1.27e-19
C24 clk1 inverter_2/a 0.034554f
C25 transmission_gate_new_1/w_n58_76# not_clk 9.18e-19
C26 transmission_gate_new_0/w_n58_76# inverter_0/y 0.005338f
C27 transmission_gate_new_0/w_n58_76# inverter_2/a 0.003657f
C28 Y not_clk1 0.17881f
C29 clk Y 0.006343f
C30 transmission_gate_new_1/w_n58_76# Vdd 0.010442f
C31 transmission_gate_new_1/w_n58_76# clk1 0.003833f
C32 clk not_clk1 0.538848f
C33 Y inverter_0/y 0.118611f
C34 Y inverter_2/a 0.531989f
C35 inverter_0/y not_clk1 0.032496f
C36 clk inverter_0/y 0.001706f
C37 inverter_2/a not_clk1 0.044542f
C38 clk inverter_2/a 2.58e-19
C39 not_clk inverter_1/y 0.005836f
C40 inverter_1/y D 1.09e-19
C41 transmission_gate_new_1/w_n58_76# Y 0.00198f
C42 inverter_2/a inverter_0/y 0.41069f
C43 inverter_1/y Vdd 0.021193f
C44 not_clk D 3.82e-19
C45 clk1 inverter_1/y 0.026328f
C46 transmission_gate_new_1/w_n58_76# not_clk1 0.001437f
C47 not_clk Vdd 0.319205f
C48 not_clk clk1 0.622056f
C49 Vdd D 0.001984f
C50 transmission_gate_new_0/w_n58_76# inverter_1/y 0.007037f
C51 clk1 D 0.006652f
C52 transmission_gate_new_1/w_n58_76# inverter_0/y 0.001561f
C53 transmission_gate_new_0/w_n58_76# not_clk 6.28e-19
C54 clk1 Vdd 0.372433f
C55 transmission_gate_new_1/w_n58_76# inverter_2/a 0.015198f
C56 transmission_gate_new_0/w_n58_76# D 3.39e-21
C57 transmission_gate_new_0/w_n58_76# Vdd 0.008518f
C58 Y inverter_1/y 0.246652f
C59 transmission_gate_new_0/w_n58_76# clk1 0.00511f
C60 not_clk Y 0.004602f
C61 inverter_1/y not_clk1 0.035158f
C62 not_clk1 Vss 0.735167f
C63 inverter_0/y Vss 0.429457f
C64 clk1 Vss 0.336237f
C65 inverter_2/a Vss 0.73401f
C66 transmission_gate_new_1/w_n58_76# Vss 0.234228f
C67 clk Vss 0.807384f
C68 not_clk Vss 0.428105f
C69 inverter_1/y Vss 0.24072f
C70 transmission_gate_new_0/w_n58_76# Vss 0.234228f
C71 Y Vss 1.534533f
C72 Vdd Vss 2.159732f
C73 D Vss 0.331609f
.ends



Xckt in out clk clkn clk clkn vdd gnd d_latch
*c3 out gnd 0.5fF

.tran 10ps 10ns

.control
run

plot in out clk 
.endc



